US09382188B2
step 3) (2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)(1-methylcyclopentyl)methanone
To a solution of cyclopentyl(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)methanone (178 mg) in THF (5 mL) was added a solution (1 M, 0.82 mL) of lithium bis(trimethylsilyl)amide in THF at 0° C., and the mixture was stirred at 0° C. for 10 min. To the reaction mixture was added iodomethane (0.26 mL), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (128 mg) as a colorless oil.

reactant | cyclopentyl(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)methanone | 178 mg | C1(CCCC1)C(=O)C1=C(C=CC(=C1)OCC1=CC=C(C=C1)OC)C1=C(C=CC(=C1)OC)F | C27H27FO4
reactant | lithium bis(trimethylsilyl)amide | 1 M, 0.82 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 0.26 mL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)(1-methylcyclopentyl)methanone | 128 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(=O)C1(CCCC1)C | C28H29FO4
